US08957070B2
N-[2-(1,2,4-Oxadiazol-3-yl)-1H-indol-7-yl]thiophene-2-sulfonamide
A mixture of N-(2-cyano-1H-indol-7-yl)thiophene-2-sulfonamide (0.50 g), hydroxyamine hydrochloride (0.17 g), triethylamine (0.83 mL), tetrahydrofuran (2 mL) and methanol (2 mL) was stirred at room temperature overnight. Water was added to the reaction mixture, and the obtained crystals were filtrated, washed with water and dried. A mixture of the obtained crystals and methyl orthoformate (10 mL) was heated under reflux for 4 hr. The reaction mixture was concentrated, and the residue was subjected to silica gel column chromatography. The title compound (0.18 g, yield 33%) was obtained as pale-yellow crystals from a fraction eluted with ethyl acetate-hexane (2:1, volume ratio). The crystals were recrystallized from ethyl acetate-hexane. melting point>185° C. (decomposition).

reactant | N-(2-cyano-1H-indol-7-yl)thiophene-2-sulfonamide | 0.50 g | C(#N)C=1NC2=C(C=CC=C2C1)NS(=O)(=O)C=1SC=CC1 | C13H9N3O2S2
reactant | hydroxyamine hydrochloride | 0.17 g | Cl.ON
reactant | triethylamine | 0.83 mL | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | Water | O | H2O
solvent | methanol | 2 mL | CO | CH4O
product | N-[2-(1,2,4-Oxadiazol-3-yl)-1H-indol-7-yl]thiophene-2-sulfonamide | 0.18 g, yield 33% | O1N=C(N=C1)C=1NC2=C(C=CC=C2C1)NS(=O)(=O)C=1SC=CC1 | C14H10N4O3S2
